US06552188B2
Synthesis of ethyl 2-(2-naphthyl)isonicotinate
2-Naphthylboronic acid (3.50 g) and ethyl 2-chloroisonicotinate (3.77 g) were reacted in the same manner as in Preparation Example 1 to obtain the title compound.

reactant | 2-Naphthylboronic acid | 3.50 g | C1=C(C=CC2=CC=CC=C12)B(O)O | C10H9BO2
reactant | ethyl 2-chloroisonicotinate | 3.77 g | ClC=1C=C(C(=O)OCC)C=CN1 | C8H8ClNO2
product | ethyl 2-(2-naphthyl)isonicotinate | C1=C(C=CC2=CC=CC=C12)C=1C=C(C(=O)OCC)C=CN1 | C18H15NO2
